US07820654B2
Synthesis of 4-(3-chloro-4-hydroxyphenylamino)-6-phenylpyrimidin-2-ol
A mixture of compound (3-chloro-4-methoxyphenyl)-(2-ethylsulfanyl-6-phenylpyrimidin-4-yl)amine and 47% hydrobromic acid solution in water (10 mL) was stirred at refluxing temperature for 12 hours. The reaction mixture was cooled to temperature in the range of 20-40° C. and excess of acid was removed under vacuum. The mixture was then neutralized with ammonia solution. The solid thus obtained was filtered off and dried under vacuum to afford the title compound as a pale brown color solid.

reactant | (3-chloro-4-methoxyphenyl)-(2-ethylsulfanyl-6-phenylpyrimidin-4-yl)amine | ClC=1C=C(C=CC1OC)NC1=NC(=NC(=C1)C1=CC=CC=C1)SCC | C19H18ClN3OS
reactant | hydrobromic acid | Br | BrH
reactant | water | 10 mL | O | H2O
product | 4-(3-chloro-4-hydroxyphenylamino)-6-phenylpyrimidin-2-ol | ClC=1C=C(C=CC1O)NC1=NC(=NC(=C1)C1=CC=CC=C1)O | C16H12ClN3O2
